Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Acute-on-Chronic Anemia
 
Major Surgical or Invasive Procedure:
EGD (___)
Venting G-tube placement (___)

 
History of Present Illness:
Ms. ___ is a ___ y/o woman with PMH notable for ETOH cirrhosis 
c/b ascites/SBP/HE/?HRS (Child C), RXYGB c/b anastomotic 
stricture s/p multiple endoscopic dilations, recent discharged 
after complicated hospitalization for gastro-jejunal anastamotic 
perforation in setting of endoscopic GJ stricture dilation 
requiring urgent ex-lap, GJ take-down, and G-G anastomosis, 
presenting from clinic with worsening asymptomatic anemia.

Regarding the patient's recent admission between ___ - 
___, she initially presented with recurrent N/V and fevers 
reportedly up to 101.4F. She was felt to be symptomatic from a 
recurrent GJ anastomotic stricture and underwent EGD on ___ 
with successful balloon dilation of this stricture. Following 
the procedure, she developed acute onset worsening abdominal 
pain and distension and was diagnosed with perforated 
gastrojejunostomy. For this, she was taken to the OR and 
underwent exploratory laparotomy, takedown old 
gastrojejunostomy, and creation of a gastrogastrostomy (on 
___. Unfortunately, following this first operation, it was 
remembered that a remaining hole in the patient's stomach was 
not closed and she was re-intubated and underwent repeat 
laparotomy with closure of the gastrostomy site. Given 
post-operative N/V and inability to take PO's, she was taken to 
the first of 2 ICU for further management.

With regards to her GI system, she suffered from severely 
refractory N/V and PO intolerance post-operatively. She was 
initially started on TF via NG with minimal success. She had UGI 
series showing severely slowed transit through the small bowel 
and multiple serial CT scans of the abdomen showing no signs of 
complete obstruction but dilated loops of small bowel on 
multiple occasions. During this diagnostic process, she was 
found to have malpositioned surgical J-tube (successfully 
replaced on ___. She also had work-up with EGD with small 
bowel push enteroscopy showing erythema and congestion of 
stomach and normal small bowel enteroscopy to jejunum to 100cm 
(___). For pro-motility, she was tried on octreotide (with 
little effect) and erythromycin (with good effect on motility 
but severe adverse effect of worsening N/V). Her ileus worsened 
upon second transfer to the ICU, with worsening mental status 
(as detailed below), but with supportive care, she ultimately 
improved to the point where she was tolerating TF at goal. She 
was subsequently advanced to a regular diet, which she was 
tolerating on discharge in addition to TF through a percutaneous 
GJ.

During this course, the patient also had an extensive infectious 
course. She was treated broadly with a combination of Zosyn 
(intermittently switched to Ceftriaxone/Flagyl) as well as 
Daptomycin for what was felt to be polymicrobial peritonitis 
given her visceral perforation. she was also treated with 
Fluconazole for sparse growth of ___ albicans from her 
peritoneal fluid. Following treatment with this broad regimen of 
antibiotics/antifungals, she was transitioned to cipro for SBP 
ppx on ___ (subsequently changed to Bactrim given seizure 
risk with fluoroquinolones). She was again febrile to 102.3F, 
however, with positive growth of pediococcus (lactobacillus 
species) on ___. This was of unclear significant, but given 
her underlying cirrhosis and risk for GI translocation, she was 
started on short course of linezolid (completed ___ prior to 
discharge) with no more sx.

Her other problems during the hospitalization included 
hypotension, amidst sedating/pain medications and fluid shifts. 
For this, she intermittently required levophed in the ICU for 
blood pressure support and was eventually initiated on midodrine 
therapy with improvements in her hemodynamics on discharge dose 
of 5mg PO TID.

The midodrine also doubled as treatment for ?HRS, which she 
developed during this hospitalization. Her Cr peaked at 6.3 on 
___, and her diuretics were held briefly before being restarted 
gently prior to discharge (lasix 20mg PO daily with 
spironolactone continued to be held I/s/o hyponatremia). 
Discharge Cr was 0.6. 

She also had a pleural effusion treated with throcentesis and 
indwelling pigtail drainage catheter (placed ___ - removed 
___ with significant improvements in her respiratory systems. 
___, she was also intubated multiple times and had 
some compressive atelectasis treated with supportive care.

She also had epileptiform discharges and alterations in mental 
status during this admission (on ___ requiring ICU transfer, 
felt to be due to a combination of hepatic encephalopathy 
treated with lactulose effectively, as well as possible 
seizure-like activity. She was diagnosed with epileptiform 
discharged on EEG, which were infrequent but concerning enough 
to warrant initiation of Keppra therapy per neurology 
consultation.

Lastly, she was found to have a breast mass on exam, for which 
GYN was consulted. They recommended mammography on ___, which 
revealed 2 indeterminate masses in the right breast, BIRADS 4B. 
She underwent U/S guided core biopsy on ___, with subsequent 
pathology showing fibroadipose tissue with blood, fibrin, and 
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications. Per ___ (breast surgery 
service), there was no indication for further surgery and she 
was discharged with follow-up with Breast clinic.

With regards to her cirrhosis, she did begin some of her 
transplant work-up with TTE performed (EF 60-65%) and slightly 
elevated PASP of 27mmHg. Work-up was otherwise deferred in the 
setting of acute illness.

Since discharge, she has actually been doing ok. She was not 
eating very well but has not been nauseated or vomited since 2 
days post-discharge. She is tolerating mostly liquid diet and 
cold water. She presented for routine follow-up in transplant 
clinic on ___, where routine labs were notable for Hgb of 
6.2 (compared to discharge hgb of 7.6). She did not have any sx 
of LH, fatigue (beyond baseline), chest pain/pressure (beyond 
baseline chest tightness which has been unchanged since before 
her surgeries), or SOB. She denies any black stool, bloody 
stool, N/V/hematemesis, epistaxis, or hematuria. She has not 
been sleeping very well at home, but is starting to get better 
and was just prescribed something for this by her doctor today 
___ per ___.

Otherwise, ROS unremarkable for no fevers, chills, or worsening 
jaundice. Her lower extremities are more edematous than before, 
but her abdomen feels less distended. She is only taking Tylenol 
for pain control at home.

 
Past Medical History:
- Obesity
- s/p gastric bypass c/b stricture of the gastrojejunal 
anastomosis and internal hernia causing SBO s/p multiple 
endoscopic dilations c/b perforation (as detailed below)
- SBO as above
- Exploratory laparotomy, takedown old gastrojejunostomy, 
gastrogastrostomy, feeding jejunostomy (___ ___ for 
perforated gastrojejunal anastomosis site with reopening of 
recent laparotomy and closure of gastrostomy (___ ___
- ETOH cirrhosis complicated by ascites, HE, SBP  
- Epileptiform discharges concerning for possible seizure in 
setting of altered mental status, started on keppra ___
- numerous hospitalizations for abdominal pain, requiring 
paracenteses
- depression/anxiety
- GERD
- hx of Cdiff
- IBS  
- thrombocytopenia  
- left ankle fusion    
- Chronic fatigue syndrome  
- Hypertriglyceridemia  
- Hyponatremia
- Right breast lesions s/p U/S guided core biopsy on ___ - 
pathology showing fibroadipose tissue with blood, fibrin, and 
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications

 
Social History:
___
Family History:
- father w/ diabetes
- maternal grandfather has unknown cancer 
- She has no family history of liver disease, hemochromatosis, 
autoimmune diseases, or non-smoker emphysema
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.4 111/70 103 97 16 RA 
Weight: 95.94 kg (last weight 92.58 on ___
GENERAL: Pleasant, well-appearing, anxious appearing, in no 
apparent distress. 
HEENT: NC/AT, EOMI, PERRL, sclera slightly icteric, OP clear, 
red-coloration of tongue after having eaten candy; no ulcers  
NECK: Supple, symmetric, JVP 7cm
HEART: RRR, S1, S2, holosystolic murmur, best appreciated in 
LUSB, no r/g
LUNGS: Clear to auscultation bilaterally, but bibasilar crackles 
L>R, no wheezes or rhonchi. 
ABDOMEN: mildly distended, firm, but non-rigid; tender to 
palpation (mild and at baseline per patient); GJ-tube in place; 
abdominal scar well healed in bottom half; healing, dressed 
wound extending from ___ region to epigastrium
GU: no melena on exam; guaiac negative stool
EXTREMITIES: WWP, 3+ pitting edema in b/l ___ up to thighs; DP, 
___ 2+ and symmetric b/l
SKIN: Without obvious rash, scars/wounds as above
NEUROLOGIC: A&Ox3, symmetric smile, eyebrow raise, midline 
tongue on protrusion; symmetric palatal elevation; normal 
sensation in b/l UE, torso, and ___ strength ___ throughout 
upper extremities b/l; able to lift both legs up against gravity 
and downward pressure
ACCESS: PIV

DISCHARGE PHYSICAL EXAM:
VS: T 98.7 BP 112/71 HR 93 RR 18 O2 94% on RA
GENERAL: Pleasant, tired-appearing Caucasian female lying in 
bed.  Conversant and appropriate.  
HEENT: Sclerae slightly icteric.  
HEART: RRR, S1, S2, II/VI holosystolic murmur best appreciated 
in LUSB, no r/g
LUNGS: Bibasilar crackles, otherwise no wheezes or rhonchi. 
ABDOMEN: Mildly distended, firm, but non-rigid; nontender to 
palpation throughout this morning. J-tube in place, without 
tenderness or purulent discharge from the site.  New G tube 
visible underneath a clean dry bandage without obvious drainage. 
 Abdominal scar well healed in bottom half; healing, dressed 
wound extending from ___ region to epigastrium
EXTREMITIES: WWP, 2+ pitting edema in b/l ___ up to thighs; DP, 
___ 2+ and symmetric b/l
SKIN: Mildly icteric.  No rashes/wounds except as above.
NEUROLOGIC: A&Ox3, moves all four extremities spontaneously.  No 
asterixis.
ACCESS: PIV
 
Pertinent Results:
___ 10:16PM URINE  HOURS-RANDOM CREAT-72 SODIUM-<20 
PHOSPHATE-<3.4
___ 10:16PM URINE  OSMOLAL-331
___ 10:16PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 10:16PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-SM  UROBILNGN-4* PH-6.0 LEUK-SM 

___ 10:16PM URINE  RBC-<1 WBC-6* BACTERIA-FEW YEAST-NONE 
EPI-1 TRANS EPI-1 RENAL EPI-1
___ 10:16PM URINE  HYALINE-1*
___ 10:16PM URINE  AMORPH-RARE
___ 10:16PM URINE  MUCOUS-RARE
___ 07:00PM   GLUCOSE-106* UREA N-8 CREAT-0.6 SODIUM-126* 
POTASSIUM-3.9 CHLORIDE-92* TOTAL CO2-23 ANION GAP-15
___ 07:00PM   ALT(SGPT)-16 AST(SGOT)-33 LD(LDH)-151 ALK 
PHOS-82 TOT BILI-2.9*
___ 07:00PM   ALBUMIN-2.5* CALCIUM-7.8* PHOSPHATE-1.6* 
MAGNESIUM-1.6 IRON-28*
___ 07:00PM   calTIBC-124* VIT B12-1083* FERRITIN-2200* 
TRF-95*
___ 07:00PM   OSMOLAL-261*
___ 07:00PM   WBC-7.1 RBC-1.67* HGB-5.8* HCT-16.8* MCV-101* 
MCH-34.7* MCHC-34.5 RDW-21.8* RDWSD-77.0*
___ 07:00PM   NEUTS-69.0 LYMPHS-12.9* MONOS-17.0* EOS-0.3* 
BASOS-0.0 IM ___ AbsNeut-4.92 AbsLymp-0.92* AbsMono-1.21* 
AbsEos-0.02* AbsBaso-0.00*
___ 07:00PM   PLT COUNT-59*
___ 07:00PM   ___ PTT-38.8* ___
___ 07:00PM   RET AUT-0.5 ABS RET-0.01*
___ 09:35AM   GLUCOSE-114*
___ 09:35AM   UREA N-8 CREAT-0.6 SODIUM-125* POTASSIUM-3.8 
CHLORIDE-90* TOTAL CO2-22 ANION GAP-17
___ 09:35AM   estGFR-Using this
___ 09:35AM   ALT(SGPT)-17 AST(SGOT)-37 ALK PHOS-91 TOT 
BILI-2.8*
___ 09:35AM   ALBUMIN-2.9* CALCIUM-8.2* PHOSPHATE-1.8* 
MAGNESIUM-1.8
___ 09:35AM   25OH VitD-20*
___ 09:35AM   ETHANOL-NEG
___ 09:35AM   WBC-7.1 RBC-1.76* HGB-6.2* HCT-17.9* MCV-102* 
MCH-35.2* MCHC-34.6 RDW-21.7* RDWSD-78.3*
___ 09:35AM   NEUTS-72.6* LYMPHS-12.6* MONOS-13.7* EOS-0.4* 
BASOS-0.0 IM ___ AbsNeut-5.14 AbsLymp-0.89* AbsMono-0.97* 
AbsEos-0.03* AbsBaso-0.00*
___ 09:35AM   PLT COUNT-54*
___ 09:35AM   ___
___ 07:00PM BLOOD calTIBC-124* VitB12-1083* Ferritn-2200* 
TRF-95*

PERTINENT STUDIES
===================
ABDOMINAL KUB (___):  
1. Jejunal tube projecting over the abdomen, similar in position 
and 
configuration compared to ___. 
2. Nonobstructive bowel gas pattern, with few air-fluid levels.  
Large stool burden in the right colon. 

CT A/P W/ AND W/O CONTRAST (___): 
1. No evidence of intraperitoneal or retroperitoneal hematoma, 
or GI bleed. 
2. Cirrhosis, with sequela of portal hypertension, including 
varices, 
splenomegaly, and ascites. 
3. Multiple dilated, fluid-filled loops of small bowel, without 
a discrete 
transition point, most consistent with ileus. The degree of 
bowel dilation 
has decreased as compared to ___. 
4. New moderate size left pleural effusion with adjacent 
compressive 
atelectasis. Portions of the left pleural effusion appear 
loculated. 
5. Nonspecific ___ nodularity in the right lower lobe 
may represent sequela of an infectious or inflammatory process 
or could be related to aspiration in the setting of recent 
vomiting. 
6. Diffuse anasarca. 

EGD (___):
Normal mucosa in the esophagus
Prior surgical anastomosis noted. There was suture material with 
small ulcer around it. At the anastomosis there was friable 
mucosa and erosions and contact bleeding. the remaining stomach 
was erythematous but otherwise unremarkable.
Normal mucosa in duodenum and proximal jejunum. There was no 
feculent material noted.
NG tube placed post procedure per liver team recommendation.
Otherwise normal EGD to proximal jejunum.

G-TUBE PLACEMENT (___):
1. Successful placement of a ___ Wills ___ gastrostomy tube. 


DISCHARGE LABS:
___ 04:54AM BLOOD WBC-4.8 RBC-2.35* Hgb-7.8* Hct-23.2* 
MCV-99* MCH-33.2* MCHC-33.6 RDW-23.8* RDWSD-82.5* Plt ___
___ 04:54AM BLOOD ___ PTT-39.4* ___
___ 04:54AM BLOOD Glucose-120* UreaN-6 Creat-0.5 Na-134 
K-3.5 Cl-102 HCO3-24 AnGap-12
___ 04:54AM BLOOD ALT-12 AST-26 LD(LDH)-169 AlkPhos-84 
TotBili-4.0*
___ 04:54AM BLOOD Albumin-2.4* Calcium-7.7* Phos-2.7 Mg-1.___ with PMHx EtOH cirrhosis (Childs Class C, c/b hepatic 
encephalopathy, SBP, and HRS), as well as complicated gastric 
surgical anatomy (Roux-en-Y gastric bypass complicated by 
recurrent anastamotic strictures requiring multiple endoscopic 
dilations, recently complicated by anastamotic perforation 
requiring ex-lap, GJ take-down, and creation of new G-G) who was 
discharged from the hospital on ___. She presented due to 
acute-on-chronic anemia found in the outpatient setting (Hb 6.2 
on ___, down from 7.6 at prior discharge on ___, concerning 
for possible postoperative/marginal ulcer bleed. Pt had no 
symptoms from her anemia. She was given 1uPRBC, to stability of 
her Hb. Course complicated by nausea/vomiting, requiring NGT 
decompression; small-bowel ileus was identified on CT A/P on 
arrival. Pt previously had noted delayed GI tract motility; she 
had tried erythromycin adn octreotide, to no promotility 
improvement. Transplant Surgery followed this patient. They 
recommended placement of a venting G-tube placement so that Pt 
could decompress her stomach at home to relieve her N/V. Pt 
underwent venting G-tube placement on ___ with ___. She was able 
to manage her tube and tolerate PO at discharge.

ACTIVE ISSUES:
# ACUTE-ON-CHRONIC ANEMIA: Reticulocyte count 0.01 on arrival, 
concerning for hypoproliferative etiology on top of some 
acute-on-chronic loss. With stable Hb after 1uPRBC transfusion. 
EGD on ___ did not demonstrate any bleeding marginal ulcers; 
it was notable for portal gastropathy, as well as mild 
friability of mucosa around her surgical anastomosis sites. Her 
anemia likely due to a combination of oozing from anastomotic 
sites/portal gastropathy vs. moderate malnutrition. Stools were 
guaiac negative. She was discharged home with nutrition 
supplementation as below.

# NAUSEA/VOMITING: Pt with an episode of feculent emesis on 
___, and CT A/P demonstrating small bowel ileus. Pt endorsed 
significant relief with placement of NGT. As Pt has had previous 
dysmotility noted (tried erythromycin and octreotide, to little 
promotile improvement), she underwent placement of a venting 
G-tube per discussion with Transplant Surgery. The purpose of 
this tube will be to allow Pt to self-decompress her stomach 
when she feels nauseous at home, so she does not require 
recurrent NGT placement or present with recurrent 
nausea/vomiting. She underwent placement of venting G-tube on 
___, and was able to manage her tube at discharge. Her 
nausea and vomiting as improved with this tube, as well as 
recommendation to take small meals frequently ___ small meals 
per day). 

# MALNUTRITION, MODERATE with
# HYPONATREMIA and
# COAGULOPATHY: 
With hyponatremia on arrival (nadir 125), as well as low 
zinc/copper levels and low albumin (to nadir 2.2) concerning for 
moderate malnutrition. Hyponatremia likely due to poor PO intake 
at home in setting of chronic illness as well as decreased 
gastric motility and ileus. Coagulopathy (INR > 2) likely due to 
poor nutrition as well. Pt was able to use her regular tube 
feeds and manage nausea with venting G-tube as above. 

CHRONIC/STABLE ISSUES:
# ETOH CIRRHOSIS: Child's class C, sober since ___. 
Complicated by ascites, HE, SBP. 
- Continued home lactulose, SBP PPx with Bactrim, and midodrine.
- Held home diuretics I/s/o concern for GI bleed, resumed at 
discharge

# H/O PERFORATED ANASTOMIC STRICTURE I/S/O ROUX-EN-Y: 
With complicated anatomic history, and recent hospitalization 
requiring exploratory laparotomy with creation of new G-G 
re-anastomosis. Surgical history likely contributes to her 
delayed gastrointestinal motility. Venting G-tube placement as 
above, with tube feeds as previously prescribed.

# H/O ETOH ABUSE: As above
- MVI, thiamine, folate

# DEPRESSION/ANXIETY: 
- Home escitalopram

# H/O EPILEPTIFORM DISCHARGES:
Previously noted during her most recent hospital stay, without 
any frank epileptiform activity. Levetiracetam discontinued on 
___ to promote improved GI motility. Pt without any altered 
mental status or confusion concerning for seizures during the 
current stay. 

# INSOMNIA: 
- Continued mirtazapine 

TRANSITIONAL ISSUES:
TRANSITIONAL ISSUES:
# CODE: Full Code
# CONTACT: ___ (Mother), ___ (Father)
-- Phone number: ___ 
-- Cell phone: ___ 

[ ] MEDICATION CHANGES:
- Added: Zinc sulfate 220mg daily, thiamine 100mg daily, copper 
gluconate 4mg daily.
- Discontinued: Levetiracetam 1000mg PO BID due to delayed 
gastric emptying effect.

[ ] FOLLOW-UP APPOINTMENTS:
- Follow up with neurology as listed for possible seizure 
activity.
- Follow up with Breast Surgery (Dr. ___ as previously 
scheduled.

[ ] FOLLOW-UP LABS:
- Pt to have weekly CBC, chem10, and LFT's drawn on ___ and 
___. Results to be faxed to PCP and ___ 
(hepatologist).

[ ] VENTING G-TUBE PLACEMENT:
- Pt encouraged to take small meals frequently, to avoid 
frequent backup of gastric contents.
- Educated on her venting G-tube management by nursing prior to 
discharge.

[ ] MALNUTRITION, MODERATE:
- With documented low Cu/Zn levels and low albumin. Vitamin 
repletion as above. Likely a contributor to her anemia (had very 
low reticulocyte count of 0.01, indicating hypoproliferative 
response).

[ ] WOUND CARE AROUND VENTING G-TUBE:
- Change dressing daily. Gently cleanse around the skin entry 
site of the catheter with povidone iodine or dilute hydrogen 
peroxide. Dry and apply sterile gauze dressing.
- The T fastener buttons (3) will fall off on their own in few 
weeks time; do not try to remove them.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 20 mg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Thiamine 100 mg PO DAILY 
5. Furosemide 20 mg PO DAILY 
6. Lactulose 30 mL PO Q6H 
7. Midodrine 5 mg PO TID 
8. LevETIRAcetam 1000 mg PO BID 
9. Sulfameth/Trimethoprim DS 1 TAB PO/NG DAILY 
10. Pantoprazole 40 mg PO Q12H 
11. Mirtazapine 15 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  copper gluconate 4 mg oral DAILY 
RX *copper gluconate 2 mg 2 tablet(s) by mouth Daily Disp #*60 
Tablet Refills:*0 
2.  Zinc Sulfate 220 mg PO DAILY 
RX *zinc sulfate 220 mg (50 mg zinc) 1 capsule(s) by mouth Daily 
Disp #*30 Capsule Refills:*0 
3.  Furosemide 20 mg PO DAILY  
4.  Lactulose 30 mL PO Q6H  
5.  Midodrine 5 mg PO TID  
6.  Escitalopram Oxalate 20 mg PO DAILY  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Mirtazapine 15 mg PO QHS:PRN insomnia  
9.  Multivitamins 1 TAB PO DAILY  
10.  Pantoprazole 40 mg PO Q12H  
11.  Sulfameth/Trimethoprim DS 1 TAB PO DAILY  
12.  Thiamine 100 mg PO DAILY  
13. HELD- LevETIRAcetam 1000 mg PO BID  This medication was 
held. Do not restart LevETIRAcetam until you speak with your 
neurologist about whether it is needed.
14.Outpatient Lab Work
ICD-10 D64.9:  Anemia, unspecified
Please draw CBC, chem10, and LFT's on ___.  Fax results to 
___ ___, Pt's hepatologist) and ___ 
___, Pt's PCP)
15.Outpatient Lab Work
ICD-10 D64.9:  Anemia, unspecified
Please draw CBC, chem10, and LFT's on ___.  Fax results to 
___ ___, Pt's hepatologist) and ___ 
___, Pt's PCP)

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Anemia, acute
Malnutrition, severe
Small bowel ileus status post venting gastrostomy tube placement

SECONDARY DIAGNOSES:
Alcohol cirrhosis
Coagulopathy
Hypovolemic hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure to care for you at the ___ 
___.  You were seen in our hospital because you had 
lab work which showed a low blood count.  We gave you a blood 
transfusion to help with this.  While in the hospital, you also 
had nausea and vomiting.  We believe this is due to your stomach 
and intestines moving food more slowly than usual.  For this 
reason, our Interventional Radiology team placed a special tube 
(a "venting G-tube") to help relieve some of the pressure from 
your stomach.  This should help improve your nausea and 
vomiting.  

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___